US06090825
5-(2-{4-[5-(4-Chloro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethyl)-2-methoxy-benzenesulfonamide hydrochloride
4-[5-(4-chloro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2yl]-piperidine trifluoroacetate (1.1 g, 2.05 mmol), prepared as in Intermediate 12, is taken up in saturated sodium carbonate and extracted with ethyl acetate. The organics are dried over magnesium sulfate and concentrated under reduced pressure. The residue is taken up in 1,4-dioxane (70 ml) and stirred. To this solution is added 5-(2-chloro-ethyl)-2-methoxy-benzenesulfonamide (0.77 g, 3.07 mmol), prepared as in Intermediate 13, sodium iodide (0.61 g, 4.10 mmol), and diisopropyl ethyl amine (0.71 ml, 4.10 mmol) and the mixture is heated to 100° C. for 16 h. After cooling to room temperature, the solvent is removed under reduced pressure. The residue is purified by silica gel chromatography using a gradient of (1:9) methanol/ethyl acetate to (1:9) methanol/ethyl acetate with 1% ammonium hydroxide as eluant. (Rf =0.13 in (1:9) methanol/ethyl acetate, visualization by UV and iodoplatinate solution) The product is further purified by reverse phase HPLC using acetonitrile/water (15% to 80% gradient over 30 min) as eluant. The fractions collected are washed with saturated sodium carbonate and extracted with ethyl acetate. The organics are dried over magnesium sulfate and the solvent removed under reduced pressure. The residue is taken up in minimal ethyl acetate (5 ml) and 1M hydrochloric acid in ether is added dropwise until a precipitate formed. The solvent is removed under reduced pressure to yield the title compound.

reactant | 4-[5-(4-chloro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2yl]-piperidine trifluoroacetate | 2.05 mmol, 1.1 g | FC(C(=O)O)(F)F.ClC1=CC=C(C=C1)C1=C(N=C(O1)C1CCNCC1)COCC(F)(F)F
reactant | 5-(2-chloro-ethyl)-2-methoxy-benzenesulfonamide | 3.07 mmol, 0.77 g | ClCCC=1C=CC(=C(C1)S(=O)(=O)N)OC | C9H12ClNO3S
reactant | sodium iodide | 4.10 mmol, 0.61 g | [I-].[Na+]
reactant | diisopropyl ethyl amine | 4.10 mmol, 0.71 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
product | 5-(2-{4-[5-(4-Chloro-phenyl)-4-(2,2,2-trifluoro-ethoxymethyl)-oxazol-2-yl]-piperidin-1-yl}-ethyl)-2-methoxy-benzenesulfonamide hydrochloride | Cl.ClC1=CC=C(C=C1)C1=C(N=C(O1)C1CCN(CC1)CCC=1C=CC(=C(C1)S(=O)(=O)N)OC)COCC(F)(F)F | InChI=1S/C26H29ClF3N3O5S.ClH/c1-36-22-7-2-17(14-23(22)39(31,34)35)8-11-33-12-9-19(10-13-33)25-32-21(15-37-16-26(28,29)30)24(38-25)18-3-5-20(27)6-4-18;/h2-7,14,19H,8-13,15-16H2,1H3,(H2,31,34,35);1H
